US09163011B2
a) (R)-4-(6-Bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine
To a solution of (R)-3-amino-3-(6-bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-butan-1-ol (9.49 g, 31.7 mmol) in EtOH (256 ml) was added NaHCO3 (1.066 g, 12.69 mmol) and cyanogen bromide (10.08 g, 95 mmol) and the mixture was warmed to 85° C. over night. After cooling to rt the solvent was evaporated and the residue taken up in 1N HCl and TBME, the layers were separated and the organic layer was washed with 1N HCl. The aq. layers were combined, basified by addition of solid Na2CO3 and extracted with TBME (2×). The combined TBME extracts were washed with sat. aq. NaCl, dried with K2CO3 to provide the desired product as yellow resin. This material was used for the next step without further purification.

reactant | (R)-3-amino-3-(6-bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-butan-1-ol | 31.7 mmol, 9.49 g | N[C@](C(CO)(F)F)(C)C1=NC(=CC=C1F)Br | C9H10BrF3N2O
reactant | NaHCO3 | 12.69 mmol, 1.066 g | C(=O)(O)[O-].[Na+]
reactant | cyanogen bromide | 95 mmol, 10.08 g | N#CBr | CBrN
solvent | EtOH | 256 ml | CCO | C2H6O
product | (R)-4-(6-Bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | BrC1=CC=C(C(=N1)[C@]1(N=C(OCC1(F)F)N)C)F | C10H9BrF3N3O
